US07855211B2
6-(2-Chloro-5-fluoro-pyrimidin-4-yl)-4-fluoro-1-isopropyl-2-methyl-1H-benzoimidazole
Prepare the following intermediates essentially as described for [5-(4-ethyl-piperazin-1-ylmethyl)-pyridin-2-yl]-[5-fluoro-4-(7-fluoro-3-isopropyl-2-methyl-3H-benzoimidazol-5-yl)-pyrimidin-2-yl]-amine below using the corresponding amine and chloro-pyrimidine derivatives:

reactant | [5-(4-ethyl-piperazin-1-ylmethyl)-pyridin-2-yl]-[5-fluoro-4-(7-fluoro-3-isopropyl-2-methyl-3H-benzoimidazol-5-yl)-pyrimidin-2-yl]-amine | C(C)N1CCN(CC1)CC=1C=CC(=NC1)NC1=NC=C(C(=N1)C1=CC2=C(N=C(N2C(C)C)C)C(=C1)F)F | C27H32F2N8
reactant | chloro-pyrimidine | ClC1=NC=CC=N1 | C4H3ClN2
product | 6-(2-Chloro-5-fluoro-pyrimidin-4-yl)-4-fluoro-1-isopropyl-2-methyl-1H-benzoimidazole | ClC1=NC=C(C(=N1)C=1C=C(C2=C(N(C(=N2)C)C(C)C)C1)F)F | C15H13ClF2N4
